US04343811
2-Methyl-2-[1,2-dimethy-3-phenyl-1H-indole-5-yloxy]propanoic acid ethylester
One gram (42 m mole) of 1,2-dimethyl-3-phenyl-1H-indole-5-ol was converted to the sodium salt in 10 of absolute dimethylformamide in the presence of 223 mg (5 m mole) of 55% sodium hydride immersion in oil, and the sodium salt was mixed at room temperature with 990 mg (5 m mole) of 2-bromo-2-methyl-propanoic acid ethylester. After a reaction time of six hours, the solvent was distilled off in vacuo and the reaction product was purified by chromatography on a silicagel column (eluant: toluene/ethyl acetate (9:1)). The evaporation residue of the combined fractions, which contained the purified ester, was treated with petroleum ether.

reactant | 1,2-dimethyl-3-phenyl-1H-indole-5-ol | One gram | CN1C(=C(C2=CC(=CC=C12)O)C1=CC=CC=C1)C | C16H15NO
reactant | sodium | [Na] | Na
reactant | sodium hydride | 223 mg | [H-].[Na+]
reactant | 2-bromo-2-methyl-propanoic acid ethylester | 990 mg | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Methyl-2-[1,2-dimethy-3-phenyl-1H-indole-5-yloxy]propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC=CC=C1)C)=O | C22H25NO3
